US04353906
To a cooled solution of 6-amino-2,2-dimethyl-7-nitro-2H-benzo[b]pyran (20.0 g)* in glacial acetic acid (800 ml) was added concentrated sulphuric acid (400 ml) and the solution stirred at 8° C. Nitrosyl sulphuric acid (prepared by dissolving sodium nitrite (6.62 g) in cold concentrated sulphuric acid (200 ml) the mixture being warmed to dissolved the solid then re-cooled to approximately 4° C.) was added keeping the temperature of the reaction mixture below 12° C. The dark, viscous mixture was stirred at approximately 7° C. for a further hour then poured into a cold (approximately 5° C.) solution of potassium iodide (15.27 g) in water (200 ml). Toluene (800 ml) was added to dissolve the resulting precipitate and the mixture stirred in an ice bath for 20 minutes, then at room temperature for 18 hours. The reaction mixture was diluted with water (500 ml), the organic phase was separated, washed with water, dried and evaporated in vacuo to afford the required 2,2-dimethyl-6-iodo-7-nitro-2H-benzo[b]pyran (11.84 g, 39%) as a red gum.

reactant | 6-amino-2,2-dimethyl-7-nitro-2H-benzo[b]pyran | 20.0 g | NC1=CC2=C(OC(C=C2)(C)C)C=C1[N+](=O)[O-] | C11H12N2O3
reactant | Nitrosyl sulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | sodium nitrite | 6.62 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 15.27 g | [I-].[K+]
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 ml | O | H2O
solvent | water | 500 ml | O | H2O
solvent | sulphuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
solvent | Toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-6-iodo-7-nitro-2H-benzo[b]pyran | 11.84 g, 39% | CC1(C=CC2=C(O1)C=C(C(=C2)I)[N+](=O)[O-])C | C11H10INO3
